US07884109B2
2,2-Dimethylchroman-4-amine.
A solution of 2′-hydroxyacetophenone (5.0 mL), acetone (4.7 mL), and pyrrolidine (5.4 mL) in 150 mL of methanol was stirred for 66 hours. The mixture was concentrated and treated with aqueous HCl (pH<1). The acidic layer was extracted twice with ethyl ether, which was dried and concentrated to provide 2,2-dimethylchroman-4-one. The 2,2-dimethylchroman-4-one was dissolved in 300 mL of methanol and treated with ammonium acetate (65 g) and sodium cyanoborohydride (2.5 g) for 24 hours. The resulting mixture was concentrated to 100 mL and diluted with 300 mL water. Concentrated HCl was carefully added until the pH was less than 1 and the acidic mixture was extracted with ethyl ether. The acidic phase was made basic with KOH and then extracted twice with ethyl ether. The basic extracts were dried and concentrated to provide the title compound.

reactant | 2,2-dimethylchroman-4-one | CC1(OC2=CC=CC=C2C(C1)=O)C | C11H12O2
reactant | ammonium acetate | 65 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 2.5 g | C(#N)[BH3-].[Na+]
solvent | methanol | 300 mL | CO | CH4O
product | 2,2-Dimethylchroman-4-amine | CC1(OC2=CC=CC=C2C(C1)N)C | C11H15NO
